US08623911B2
M1. 4-Fluoro-N-(1-hydroxy-3,4-dihydro-1H-benzo[c][1,2]oxaborinin-7-yl)-2-trifluoromethyl-benzamide
A solution of 7-nitro-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol (100 mg, 0.52 mmol) in THF (10 mL) was passed through H-cube equipped with a 10% Pd/C cartridge. The collected light yellow solution was immediately treated with Et3N (144 μL, 2.0 mmol, 2.0 eq.), followed by 4-fluoro-2-trifluoromethyl-benzoyl chloride (94 μL, 0.62 mmol, 1.2 eq.). The resulting mixture was stirred at room temperature overnight. The reaction solution was diluted with EtOAc (20 mL), washed with 1N HCl (10 mL), H2O (10 mL), brine (10 mL) and then dried over Na2SO4, filtered and the filtrate was concentrated under reduced pressure and the crude material was applied to silica chromatography eluting with MeOH/DCM (0:100 to 10:90) to give the title compound as a white solid. LCMS (M/Z): 354 (M+H); 1H NMR (DMSO-d6) δ: 10.43 (s, 1H), 8.40 (s, 1H), 7.89 (d, J=2.3 Hz, 1H), 7.75 (dt, J=5.9, 2.9 Hz, 2H), 7.58-7.67 (m, 2H), 7.15 (d, J=8.2 Hz, 1H), 4.03 (t, J=5.9 Hz, 2H), 2.80 (t, J=5.8 Hz, 2H).

reactant | 7-nitro-3,4-dihydro-benzo[c][1,2]oxaborinin-1-ol | 0.52 mmol, 100 mg | [N+](=O)([O-])C=1C=CC2=C(B(OCC2)O)C1 | C8H8BNO4
reactant | Et3N | 2.0 mmol, 144 μL, 2.0 eq. | CCN(CC)CC | C6H15N
reactant | 4-fluoro-2-trifluoromethyl-benzoyl chloride | 0.62 mmol, 94 μL, 1.2 eq. | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 4-Fluoro-N-(1-hydroxy-3,4-dihydro-1H-benzo[c][1,2]oxaborinin-7-yl)-2-trifluoromethyl-benzamide | FC1=CC(=C(C(=O)NC=2C=CC3=C(B(OCC3)O)C2)C=C1)C(F)(F)F | C16H12BF4NO3
